US07759379B2
3-{3,3-Dimethyl-1-[2-(4-methyl-piperazin-1-yl)-acetyl]-2,3-dihydro-1H-indol-6-yl}-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione
To a solution of 70 mg 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione in 2 ml 1,2-dichloroethane in a process vial 0.06 ml ethyl-diisopropyl-amine and 13.5 mg chloroacetylchloride were added at 0° C. After stirring for 1 hour at 0° C. 33.9 mg 1-methyl-piperazine were added. The resulting mixture was stirred for 2 hours at room temperature. The solvent was removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/acetonitrile gradient with 0.1% trifluoracetic acid). Lyophilization of the solution yielded a white solid.

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | 70 mg | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C | C25H26N4O2
reactant | ethyl-diisopropyl-amine | 0.06 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloroacetylchloride | 13.5 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-methyl-piperazine | 33.9 mg | CN1CCNCC1 | C5H12N2
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 3-{3,3-Dimethyl-1-[2-(4-methyl-piperazin-1-yl)-acetyl]-2,3-dihydro-1H-indol-6-yl}-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | CC1(CN(C2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C(CN1CCN(CC1)C)=O)C | C32H38N6O3
